US08497368B2
(E)-1-(1-(3-(Difluoro(quinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylideneamino)imidazolidin-2-one
A solution of 1-(3-(difluoro(quinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone (20 mg, 0.059 mmol) and 1-aminoimidazolidin-2-one (12 mg, 0.12 mmol) in MeOH was stirred at room temperature for overnight. Solvent was evaporated and the crude product was purified on flash chromatography (CH2Cl2:MeOH 9:1) to give the title compound as a white solid (8 mg, 32%). 1H-NMR (400 MHz, MeOH-d4) δ ppm 8.98 (s, 1H), 8.52 (d, 1H), 8.43 (s, 1H), 8.26 (d, 2H), 8.19 (m, 1H), 8.06 (d, 1H), 7.66 (d, 1H), 3.55 (t, 2H), 3.38 (t, 2H), 2.30 (s, 3H). LCMS (method A): [MH]+=423.0, tR=4.63 min.

reactant | 1-(3-(difluoro(quinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethanone | 0.059 mmol, 20 mg | FC(C1=NN=C2N1N=C(C=C2)C(C)=O)(C=2C=C1C=CC=NC1=CC2)F | C17H11F2N5O
reactant | 1-aminoimidazolidin-2-one | 0.12 mmol, 12 mg | NN1C(NCC1)=O | C3H7N3O
solvent | MeOH | CO | CH4O
product | (E)-1-(1-(3-(Difluoro(quinolin-6-yl)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)ethylideneamino)imidazolidin-2-one | 8 mg, 32% | FC(C1=NN=C2N1N=C(C=C2)\C(\C)=N\N2C(NCC2)=O)(C=2C=C1C=CC=NC1=CC2)F | C20H16F2N8O
